Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Flexeril
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx diverticulosis, uterine fibroids, s/p C-section, 
presenting with 3 days of worsening left-sided abdominal pain. 
Her pain has been constant and gradually worsening to the point 
that she was unable to sleep at night.
Initially she attributed this to constipation, as she had not 
had a BM in several days, and took milk of magnesia. She had 
several watery BMs but found no relief from her pain. She 
endorses nausea. She denies vomiting, fever, chills, chest pain, 
SOB, hematochezia, orthopnea, or PND. Her last menstrual period 
ended yesterday. 

 
Past Medical History:
Past Medical History: 
- diverticulosis (C-scope ___
- fibroids
- GERD
- keratoconus
- shingles 
- right arm neuropathic pain due to past trauma

Past Surgical History:  
- C-section
- bl corneal transplants
- L wrist surgery

 
Social History:
___
Family History:
No known GI disease in the family. 

 
Physical Exam:
Admission Physical Exam:
Vitals: 98.2 76 132/79 16 100% RA 
GEN: A&O, uncomfortable appearing, lying in bed
HEENT: No scleral icterus 
Neck: No JVD
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Tender to palpation diffusely with focal tenderness in the
LLQ. + rebound. +voluntary guarding. Soft, non-distended.  
Ext: 1+ edema on the right up to the mid shin. No edema on the
left. No erythema. No tenderness to palpation in the right or
left calf. 

Discharge Physical Exam:
VS:
GEN:
HEENT:
CV:
PULM:
ABD:
EXT:
 
Pertinent Results:
IMAGING:

1. Acute diverticulitis of the descending colon, likely 
complicated by a tiny 
intramural abscess.  No drainable fluid collections identified. 
2. Enlarged fibroid uterus. 
3. Incompletely characterized 15 mm incidental left adrenal 
nodule, 
statistically likely to reflect an adrenal adenoma.  Correlation 
with 
biochemical markers is recommended.  ___ year follow-up adrenal 
protocol CT or 
MRI may be considered. 
  
RECOMMENDATION(S):  Incompletely characterized 15 mm incidental 
left adrenal nodule, statistically likely to reflect an adrenal 
adenoma.  Correlation with biochemical markers is recommended. ___ 
year follow-up adrenal protocol CT or MRI may be considered. 

Labs:

___ 09:50AM   GLUCOSE-101* UREA N-6 CREAT-0.9 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-26 ANION GAP-13
___ 09:50AM   CALCIUM-8.6 PHOSPHATE-3.9 MAGNESIUM-2.3
___ 09:50AM   WBC-4.4 RBC-3.18* HGB-7.5* HCT-26.3* MCV-83 
MCH-23.6* MCHC-28.5* RDW-19.3* RDWSD-57.2*
___ 09:50AM   PLT COUNT-327
___ 04:40PM   GLUCOSE-91 UREA N-9 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-21* ANION GAP-17
___ 04:40PM   ALT(SGPT)-7 AST(SGOT)-9 ALK PHOS-51 TOT 
BILI-0.3
___ 04:40PM   LIPASE-16
___ 04:40PM   ALBUMIN-3.7 CALCIUM-8.7 PHOSPHATE-3.4 
MAGNESIUM-2.3
___ 02:58PM   LACTATE-1.4
___ 02:55PM URINE  UCG-NEGATIVE
___ 02:55PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:55PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 02:55PM URINE  RBC-132* WBC-19* BACTERIA-FEW YEAST-NONE 
EPI-32
___ 02:55PM URINE  MUCOUS-MANY
___ 02:10PM   VoidSpec-GROSSLY HE
___ 02:10PM   WBC-5.4 RBC-3.52* HGB-8.4*# HCT-27.9* 
MCV-79*# MCH-23.9*# MCHC-30.1* RDW-21.5* RDWSD-58.6*
___ 02:10PM   NEUTS-66.9 ___ MONOS-9.6 EOS-1.5 
BASOS-0.6 IM ___ AbsNeut-3.64 AbsLymp-1.14* AbsMono-0.52 
AbsEos-0.08 AbsBaso-0.03
___ 02:10PM   PLT COUNT-420*#
___ 02:10PM   ___ PTT-27.0 ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with PMHx diverticulosis, uterine 
fibroids, C-section, who presented to ___ w/ 3 days of 
worsening left-sided abdominal pain. CT abdomen/pelvis revealed 
acute diverticulitis of the descending colon, complicated by a 
small intramural abscess.  The patient was admitted to the Acute 
Care Surgery service, made NPO and started on IVF for hydration 
and IV ciprofloxacin and metronidazole to treat her 
diverticulitis. She received IV hydromorphone for pain control. 

Serial abdominal exams were performed and WBC was trended to 
assess for ongoing infection.  On HD3, the patient's abdominal 
exam was improved and she was written for a regular diet which 
was well-tolerated.  Antibiotics were converted to PO 
ciprofloxacin/metronidazole. 

The patient was alert and oriented throughout hospitalization. 
The patient remained stable from a cardiovascular and pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient's intake and 
output were closely monitored. The patient received subcutaneous 
heparin and ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. iron -- Unknown Strength 
2. gabapentin 300 mg capsule oral 1 capsule(s) TID, as needed
3. prednisolone acetate 1 % eye drops,suspension ophthalmic 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Q6h PRN Disp #*90 
Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
NO strenuous exercise while taking this medication  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Q12 Disp #*21 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H 
do NOT drink alcohol while taking this medication  
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*32 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4h prn Disp #*15 Tablet 
Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation  
RX *sennosides [senna] 8.6 mg 1 Tablet by mouth Bid prn Disp 
#*60 Tablet Refills:*0 
7.  Gabapentin 300 mg PO TID  
8.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis complicated by mural abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital with 
diverticulitis and an associated abscess.  You were started on 
IV antibiotics and initially restricted from eating to promote 
bowel rest.  Your abdominal pain improved and your diet was 
gradually advanced and your IV antibiotics were transitioned to 
oral antibiotics.  

You are now ready to be discharged home to continue your 
recovery.  Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___